US07405235B2
4-Methylsulfanyl-2′-nitro-biphenyl-2-ylamine
A methanol/dioxane (20 mL/5 mL of methanol/dioxane) solution/suspension of 4-iodo-3-nitrothioanisole (1 mmol), Pd(OAc)2 (0.01 mmol) was purged with argon for ˜5 min. To this solution Et3N (3 mmol), and 5 mL of water were added and purged with argon for another 5 min. To the above solution, 2-aminophenyl boronic acid (2 mmol, solution in 5 mL of DMF, purged with argon), was added and the reaction mixture was heated at 70° C. (oil bath temperature) for 2 h. The reaction was monitored by HPLC and LC-MS to follow the product formation. The reaction mixture was then cooled down to room temperature and filtered through diatomaceous earth. The filtrate was concentrated and purified using preparative HPLC.

reactant | methanol dioxane | 20 mL | CO.O1CCOCC1
reactant | 4-iodo-3-nitrothioanisole | 1 mmol | IC1=C(C=C(C=C1)SC)[N+](=O)[O-] | C7H6INO2S
reactant | Et3N | 3 mmol | CCN(CC)CC | C6H15N
reactant | 2-aminophenyl boronic acid | 2 mmol, 5 mL | NC1=C(C=CC=C1)B(O)O | C6H8BNO2
reactant | water | 5 mL | O | H2O
catalyst | Pd(OAc)2 | 0.01 mmol | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-Methylsulfanyl-2′-nitro-biphenyl-2-ylamine | CSC1=CC(=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-])N | C13H12N2O2S
